US09024026B2
2,9-dimethyl-4,7-di(n-butyl)-1,10-phenanthroline, Phen2
4,7-dichloro-2,9-dimethyl-1,10-phenanthroline, Phen1, is synthesized according to the literature (M. Schmittel, H. Ammon Eur. J. Org. Chem. 1998, 785.). For the substitution with a n-butyl group, an equimolar amount of n-HexMgBr and CuBr is added. The purification of Phen2 is done using column chromatography over silica gel.

reactant | 4,7-dichloro-2,9-dimethyl-1,10-phenanthroline | ClC1=CC(=NC2=C3N=C(C=C(C3=CC=C12)Cl)C)C | C14H10Cl2N2
reactant | n-HexMgBr | C(CCCCC)[Mg]Br
product | 2,9-dimethyl-4,7-di(n-butyl)-1,10-phenanthroline | CC1=NC2=C3N=C(C=C(C3=CC=C2C(=C1)CCCC)CCCC)C | C22H28N2
